US05554620
To a solution of 2-cyano-4-methylpyridine-N-oxide (3.29 g, 0.0279 mol) in 164 mL of methylene chloride at -78° C. was added 27.6 mL of DIBAL(H) and the mixture was stirred at -78 ° C. for 2 h. To the above mixture was added 13 mL of HCl (conc.) and 52 mL of water, and the mixture was warmed to room temperature. To the aqueous layer was added sodium bicarbonate solution, the solution was extracted with ether, and the combined organic layer was concentrated in vacuo. The residue was purified by chromatography on silica (ether) to afford 0.5 g (14.8%) of 4-methylpyridine-2-carboxaldehyde, as an oil.

reactant | 2-cyano-4-methylpyridine-N-oxide | 0.0279 mol, 3.29 g | C(#N)C1=[N+](C=CC(=C1)C)[O-] | C7H6N2O
reactant | HCl | 13 mL | Cl | ClH
reactant | water | 52 mL | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 164 mL | C(Cl)Cl | CH2Cl2
product | 4-methylpyridine-2-carboxaldehyde | 0.5 g, 14.8% | CC1=CC(=NC=C1)C=O | C7H7NO
